US05354759
To a mixture of 3-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine (846 mg) in 1,3-dimethyl-2-imidazolidinone (10 ml) was added sodium azide (539 mg) and triethylamine hydrochloride (1.425 g) and stirred at 135° C. for 24 hours. The reaction mixture was poured into ice-water and the pH value was adjusted to 4 with 7% hydrochloric acid, extracted with ethyl acetate (twice) and the organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was crystallized from methyl cyanide and washed hot methyl cyanide to give 3-[4-[4-chloro-2-(1H-tetrazol-5-yl)-1-pyrrolyl]-benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine(766 mg) as a brown solid. mp: 88°-90° C.

reactant | 3-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 846 mg | ClC=1C=C(N(C1)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)SCC)C=C1)C#N | C21H18ClN5S
reactant | sodium azide | 539 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.425 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | Cl | ClH
solvent | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 3-[4-[4-chloro-2-(1H-tetrazol-5-yl)-1-pyrrolyl]-benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 766 mg | ClC=1C=C(N(C1)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)SCC)C=C1)C1=NN=NN1 | C21H19ClN8S
